US08492549B2
(S)-1-Benzyl-3-methyl-3-[2-(tetrahydropyran-2-yloxy)ethoxymethyl]piperidine
(S)-(1-Benzyl-3-methylpiperidin-3-yl)methanol (1.29 g, 5.9 mmol) and tetrabutylammonium bromide (0.19 g, 0.59 mmol) were stirred in 50% NaOH (40 ml) for 15 min. The mixture was then heated to 60° C. and 2-(2-bromoethoxy)tetrahydropyran (2.7 ml, 17.7 mmol) was slowly added (2 h) from a dropping funnel. Stirring was then continued for 4 h at 60° C. Water (40 ml) and brine (20 ml) were added to the cooled mixture, which was extracted with toluene (3×50 ml). The combined extracts were washed twice with water and brine, dried, filtered and evaporated to give 3.0 g of the crude product mixture, which was subjected to flash chromatography on silica. Elution with heptane/EtOAc (80:20) gave 1.14 g of the title compound as a colorless oil.

reactant | (S)-(1-Benzyl-3-methylpiperidin-3-yl)methanol | 5.9 mmol, 1.29 g | C(C1=CC=CC=C1)N1C[C@@](CCC1)(C)CO | C14H21NO
reactant | 2-(2-bromoethoxy)tetrahydropyran | 17.7 mmol, 2.7 ml | BrCCOC1OCCCC1 | C7H13BrO2
reactant | Water | 40 ml | O | H2O
catalyst | tetrabutylammonium bromide | 0.59 mmol, 0.19 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | NaOH | 40 ml | [OH-].[Na+]
solvent | brine | 20 ml | [Cl-].[Na+].O
product | (S)-1-Benzyl-3-methyl-3-[2-(tetrahydropyran-2-yloxy)ethoxymethyl]piperidine | 1.14 g | C(C1=CC=CC=C1)N1C[C@](CCC1)(COCCOC1OCCCC1)C | C21H33NO3
